US05223498
A mixture of 1-(2-hydroxyethyl)-2-imidazolidinone (2.28 g), benzoic anhydride (4.5 g), triethylamine (2.4 g), 4-dimethylaminopyridine (0.1 g) and 1,2-dimethoxyethane (20 ml) was stirred at room temperature for 8 hours. Saturated sodium bicarbonate solution (15 ml) was added and the mixture extracted with dichloromethane (100 ml). The extract was washed with water, brine and then dried and filtered. The solvent was removed to give 1-(2-benzoyloxyethyl)-2-imidazolidinone (m.p. 130°-132° C.) which was recrystallised from ethylacetate.

reactant | 1-(2-hydroxyethyl)-2-imidazolidinone | 2.28 g | OCCN1C(NCC1)=O | C5H10N2O2
reactant | benzoic anhydride | 4.5 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 1-(2-benzoyloxyethyl)-2-imidazolidinone | C(C1=CC=CC=C1)(=O)OCCN1C(NCC1)=O | C12H14N2O3
